US07951838B2
Step 2: 3-(2-(5-Bromo-2-methoxypyridin-3-yl)-2-oxoethylidene)cyclobutanecarbonitrile
A mixture of lithium (Z)-1-(5-bromo-2-methoxypyridin-3-yl)-2-(dimethoxyphosphoryl)ethenolate (2.0 g, 5.8 mmol) and 3-oxocyclobutanecarbonitrile (1.1 g, 12 mmol) in p-dioxane (6 ml) was heated at 120° C. by Microwave in 1 h. The mixture was cooled, taken up in H2O, extracted with EtOAc (3×), dried over MgSO4, concentrated to provide the title compound. MS (m+1): 307.0.

reactant | lithium (Z)-1-(5-bromo-2-methoxypyridin-3-yl)-2-(dimethoxyphosphoryl)ethenolate | 5.8 mmol, 2.0 g | BrC=1C=C(C(=NC1)OC)/C(=C/P(=O)(OC)OC)/[O-].[Li+]
reactant | 3-oxocyclobutanecarbonitrile | 12 mmol, 1.1 g | O=C1CC(C1)C#N | C5H5NO
solvent | p-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | 3-(2-(5-Bromo-2-methoxypyridin-3-yl)-2-oxoethylidene)cyclobutanecarbonitrile | BrC=1C=C(C(=NC1)OC)C(C=C1CC(C1)C#N)=O | C13H11BrN2O2
